project_simulatie
*SPICE Netlist generated by Advanced Sim server on 17-1-2025 14:51:10
.options MixedSimGenerated

*Schematic Netlist:
CC1 Vin Verc 100nF
CC2 Verc Vout 100nF
RR1 0 Verc 330 TC1=0 TC2=0
RR2 Vout 0 180 TC1=0 TC2=0
VV1 Vin 0 DC 0 SIN(5 0.5 200 0 0 0) AC 1 0

.PROBE {V(Vout)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(Verc)} =PLOT(1) =AXIS(1) =UNITS(V)

*Selected Circuit Analyses:
.AC DEC 10 1K 1G

.END